US06743939B2
c) 4-Amino-6-methylheptylcarbamic acid 1,1-dimethylethyl ester
A solution of E and Z isomers of 4-(hydroxyimino)-6-methylheptylcarbamic acid 1,1-dimethylethyl ester (2.1 g, 8.13 mmol) in ethanol (75 ml) was hydrogenated at 5 bar pressure over rhodium on alumina (200 mg) for 36 h. The mixture was then filtered and the filtrate concentrated to dryness to afford the title compound in quantitative yield (2 g).

reactant | 4-(hydroxyimino)-6-methylheptylcarbamic acid 1,1-dimethylethyl ester | 8.13 mmol, 2.1 g | CC(C)(C)OC(NCCCC(CC(C)C)=NO)=O | C13H26N2O3
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | rhodium on alumina | 200 mg | [Rh] | Rh
product | 4-Amino-6-methylheptylcarbamic acid 1,1-dimethylethyl ester | quantitative yield | CC(C)(C)OC(NCCCC(CC(C)C)N)=O | C13H28N2O2
